US09120761B2
(e) tert-Butyl 4-(4-((4-((2-(2-amino-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-(trifluoromethoxy)phenyl)piperidine-1-carboxylate (I49)
To a nitrogen de-gassed solution of 2-(2-ethynylphenyl)acetamide (I41) (0.029 g, 0.18 mmol) and tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-(trifluoromethoxy)phenyl)piperidine-1-carboxylate (I48) (0.082 g, 0.15 mmol) in dry DMF (4 mL) were added triethylamine (0.085 mL, 0.61 mmol), triphenylphosphine (6.0 mg, 0.023 mmol), trans-dichlorobis (triphenylphosphine)palladium (II) (0.011 g, 0.015 mmol) and Cu(I)I (4.0 mg, 0.023 mmol). The reaction mixture was heated under microwave irradiation at 120° C. for 20 minutes, concentrated to dryness in vacuo and purified by silica gel chromatography (12 g Si cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I49) (0.073 g, 73% yield) as a pale yellow solid; 1H NMR (400 MHz, d6-DMSO) δ 10.11 (s, 1H), 8.74 (s, 1H), 7.58 (dd, J=7.7, 6.2 Hz, 2H), 7.53-7.47 (m, 1H), 7.42-7.27 (m, 5H), 6.99 (s, 1H), 4.14-4.03 (m, 2H), 3.67 (s, 2H), 2.87-2.72 (m, 3H), 1.79 (d, J=12.8 Hz, 2H), 1.50 (qd, J=12.5, 4.1 Hz, 2H), 1.42 (s, 9H). LCMS Method C: rt 6.63 min; m/z 564.0 [M-Boc+2H]+.

reactant | 2-(2-ethynylphenyl)acetamide | 0.18 mmol, 0.029 g | C(#C)C1=C(C=CC=C1)CC(=O)N | C10H9NO
reactant | tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-(trifluoromethoxy)phenyl)piperidine-1-carboxylate | 0.15 mmol, 0.082 g | ClC1=NC(=NC=C1C(F)(F)F)NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC(F)(F)F | C22H23ClF6N4O3
reactant | triethylamine | 0.61 mmol, 0.085 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.023 mmol, 6.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | trans-dichlorobis (triphenylphosphine)palladium (II) | 0.015 mmol, 0.011 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 4-(4-((4-((2-(2-amino-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-(trifluoromethoxy)phenyl)piperidine-1-carboxylate | 73% yield | NC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC(F)(F)F)=O | C32H31F6N5O4
